* C:\Users\Ian Diaz\Desktop\TP03\Ex5\Spice.asc
R1 N001 N004 1k
R2 N003 N002 1k
R3 N005 N001 {hola}
R4 N002 N005 {1000-hola}
R5 N006 N004 50k
R6 N003 N006 50k
C1 N002 N001 100n
C2 N006 N005 10n
V1 N004 0 AC 1
V2 vcc 0 15
V3 0 vee 15
XU1 0 N006 vcc vee N003 TL082
.ac dec 100 10 1meg
.step param hola 0.1 2k 500
.lib TL082.sub
.backanno
.end
