* C:\Users\Ian Diaz\Desktop\TP03\Ex5\Simulaciones\Circuito +EQ Fase\Spice.asc
R1 N001 N005 330
R2 N003 N002 330
R3 N006 N001 {hola}
R4 N002 N006 {2001-hola}
R5 N007 N005 20k
R6 N003 N007 20k
C1 N002 N001 100n
C2 N007 N006 10n
V1 N005 0 AC 1
V2 vcc 0 15
V3 0 vee 15
XU1 0 N007 vcc vee N003 TL082
XU2 0 N003 vcc vee N003 TL082
R7 N004 N003 1k
R8 N008 N003 1k
R9 0 N008 1k
C3 N004 0 100n
L1 N004 0 10m
.ac dec 100 10 1meg
.step param hola 0.1 2k 500
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\TL082.mod
.backanno
.end
