* C:\Users\Ian Diaz\Desktop\ITBA\TC\TP03\Ex5\Simulaciones\Ecualizador\Spice.asc
R1 N003 vin 2.7k
R2 vo1 N004 2.7k
R3 N006 N003 5k
R4 N004 N006 5k
R5 N007 vin 100k
R6 vo1 N007 100k
C1 N004 N003 390n
C2 N007 N006 39n
V1 vin 0 AC 1
V2 vcc 0 15
V3 0 vee 15
XU1 0 N007 vcc vee vo1 TL082
R7 N001 vo1 2.7k
R8 N005 N001 5k
R9 N002 N005 5k
R10 vo2 N002 2.7k
R11 N008 vo1 100k
R12 vo2 N008 100k
C3 N005 N008 6.8n
C4 N002 N001 68n
XU2 0 N008 vcc vee vo2 TL082
R13 N009 vo2 2.7k
R14 N013 N009 5k
R15 N010 N013 5k
R16 vo3 N010 2.7k
R17 N015 vo2 100k
R18 vo3 N015 100k
C5 N010 N009 10n
C6 N013 N015 1n
XU3 0 N015 vcc vee vo3 TL082
R19 N011 vo3 2.7k
R20 N014 N011 5k
R21 N012 N014 5k
R22 vo4 N012 2.7k
R23 N016 vo3 100k
R24 vo4 N016 100k
C7 N012 N011 2.7n
C8 N014 N016 270p
XU4 0 N016 vcc vee vo4 TL082
.ac dec 100 1 1meg
.lib C:\Users\Ian Diaz\Documents\LTspiceXVII\lib\TL082.mod
.backanno
.end
