* C:\Users\R2D2\Desktop\TC\TP3\BP\BP.asc
V1 Vin 0 AC 1
C1 Vout 0 {mc(100nF,tola)}
R1 Vout N003 {mc(1k,tolb)}
RG N002 N001 {mc(10,tola)}
CG N004 N001 {mc(3.3nF,tola)}
R3 N004 0 {mc(30K,tolb)}
XU2 N004 N002 VCC+ VCC- N002 TL082
V2 VCC+ 0 10
V3 0 VCC- 10
RFuente N003 Vin 50
C2 N004 N001 {mc(1nF,tola)}
L1 Vout 0 1.29mH
;dc dec V1 0 100k 1000
.ac dec 1000 0.01 10000k
.lib TL082.lib
.param tolb=0.01
;step param run 1 100 1
.param tola=0.05
.backanno
.end
