* C:\Users\fmate\Documents\TC\TP3\Cascada.asc
R1 N012 N005 47k
R2 N001 N005 555
R3 N007 N012 47k
R4 N007 N002 555
C1 N002 N001 1.65µf
C2 N001 N012 157.8nf
XU1 0 N012 vcc+ vcc- N007 TL084
R6 N002 N001 5k
R7 N014 N007 47k
R8 N003 N007 555
R9 N011 N014 47k
R10 N011 N004 555
C3 N004 N003 150nf
C4 N003 N014 15nf
XU2 0 N014 vcc+ vcc- N011 TL084
R12 N004 N003 5k
R13 N015 N011 47k
R14 N008 N011 555
R15 Cascada N015 47k
R16 Cascada N009 555
C5 N009 N008 13.2nf
C6 N008 N015 1.32nf
XU3 0 N015 vcc+ vcc- Cascada TL084
V6 0 vcc- 15
V7 vcc+ 0 15
R18 N009 N008 5k
R25 N026 N005 47k
R26 N019 N005 555
R27 N024 N026 47k
R28 N024 N023 555
C9 N023 N019 13.2nf
C10 N023 N026 1.32nf
R29 N023 N019 5k
XU5 0 N026 NC_01 NC_02 N024 TL084
R19 N025 N005 47k
R20 N017 N005 555
R21 N016 N025 47k
R22 N016 N022 555
C7 N022 N017 150nf
C8 N022 N025 15nf
R23 N022 N017 5k
XU4 0 N025 NC_03 NC_04 N016 TL084
R31 N021 N007 1k
R32 N021 N016 1k
R33 N021 N024 1k
R34 N021 N005 500
XU6 0 N021 vcc+ vcc- Paralelo TL084
R35 Paralelo N021 1k
V1 N005 0 0 AC 1v
.ac dec 1000 20 20k
.lib C:\Users\fmate\Documents\LTspiceXVII\TL084.LIB
.backanno
.end
